Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neck pain  

 
Major Surgical or Invasive Procedure:
___ Endoscope by ENT

 
History of Present Illness:
___ y/o F s/p partial thyroidectomy in ___, presenting with 
neck pain and difficulty swallowing. History taken with ___ 
___ interpreter. Patient reports that since surgery in 
___, she has mild to moderate ongoing pain at the right neck 
surgical site. In addition, she endorses dysphagia with 
swallowing solids where she has to take small bites and drink 
water. With fluids, she has to take small sips, otherwise she 
would choke. No particular trigger with fish bone. Also endorses 
intermittent hoarseness since surgery. The day prior to 
admission, patient had a choking episode when attempting to eat 
dinner. She also noted a low-grade temperature of 99.4 and took 
some ibuprofen and presented to ___ where her CT 
scan showed free air C4-5. She was transferred to ___ for 
further evaluation. Patient denies breathing difficulty or SOB. 
No trismus.  
In the ED, initial VS were 99 92 123/81 18 100%. Labs all wnl 
including lactate 0.9. Received unasyn x1. ENT evaluated patient 
and did not visualize obvious source of neck pain or infection, 
recommended admission to medicine with follow up. Transfer VS 
were 98.8 72 ___ RA.  
On arrival to the floor, patient reports right neck pain.  

 
Past Medical History:
Partial right thyroidectomy in ___  

 
Social History:
Denies smoking, EtOH or illicits  
Lives with her family 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS - 98.4; 117/81; 76; 18; 100%RA  
General: well appearing, NAD  
HEENT: oropharynx clear, seveve halitosis  
Neck: Right lateral neck with mild swelling and one suture still 
in place at surgical site, tender to touch. D/C/I, well healed. 
no thyroid enlargement or nodules. No lymphadenopathy  
CV: RRR, normal S1, S2, no M/R/G  
Lungs: CTAB and anteriorly over trachea, no w/r/r/  
Abdomen: soft, NDNT, +BS  
Ext: no edema  
Neuro: AAOx3  
Skin: no rash  

DISCHARGE PHYSICAL EXAM
VS: Tc 98.2, Tm 98.6, HR 60-81, BP 95-116/66-88, 99% RA, I= 
___, O=3000
General: weak appearing female in NAD
HEENT: PERRL, oropharynx clear, unable to visualize posterior 
orpharynx, mallampati III
Neck: neck with lateral surgical scar, normal ROM, nontender to 
palpation
CV: RRR, normal S1, S2, no M/R/G  
Lungs: CTAB, no w/r/r  
Abdomen: soft, nondistended, no rebound, normal bowel sounds, 
nontender to palpation
Ext: no edema  
Neuro: AAOx3, CN III-XII intact
 
Pertinent Results:
=============================
ADMISSION LABS
=============================
___ 11:19PM BLOOD WBC-6.0 RBC-4.45 Hgb-12.8 Hct-40.8 MCV-92 
MCH-28.7 MCHC-31.3 RDW-13.5 Plt ___
___ 11:19PM BLOOD Neuts-54.7 ___ Monos-5.1 Eos-2.2 
Baso-1.7
___ 11:19PM BLOOD Plt ___
___ 11:19PM BLOOD Glucose-84 UreaN-9 Creat-0.7 Na-141 K-3.7 
Cl-106 HCO3-25 AnGap-14
___ 11:19PM BLOOD Calcium-9.4 Phos-3.7 Mg-2.0
___ 06:30AM BLOOD TSH-2.1
___ 11:23PM BLOOD Lactate-0.9
___ 11:19PM URINE Color-Straw Appear-Clear Sp ___
___ 11:19PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:19PM URINE RBC-1 WBC-0 Bacteri-NONE Yeast-NONE Epi-1

============================
PERTINENT MICROBIOLOGY
============================

___ Blood cultures X 2 pending

===============================
PERTINENT IMAGING
===============================

___ CT NECK W/O CONTRAST FROM OSH

1. Focus of air in the area posterior to the trachea on the 
right, which could represent a tracheal diverticulum given its 
location, although no clear communication with the trachea is 
visualized, or possibly extraluminal air.  Potential 
communication with the esophagus could be evaluated if 
clinically indicated via a barium swallow study.   
2. Soft tissue in the anterior mediastinum is partially imaged 
and not well assessed on this exam. ___ represent thymic tissue 
but cannot exclude lymphomatous mass. Chest radiograph or CT 
could be obtained for further evaluation.  
3. Hyperdense small focus in the area of the right piriform 
sinus of unclear clinical significance. ___ be ammenable to 
direct visualization.  
ATTENDING NOTE: Unclear if air described above is due to surgery 
(if it is recent). Prominent upper cervical lymphnode with 
enlargement in left level II region.  

___ CXR

Cardiac and mediastinal contours are within normal limits.  
Lungs appear well inflated without evidence of focal airspace 
consolidation to suggest 
aspiration or pneumonia.  No pleural effusions or pneumothorax.  
No acute bony abnormality. 

___ BARIUM SWALLOW

Barium liquid passes freely from the oropharynx into the upper 
esophagus without evidence of obstruction.  On the AP and 
lateral views, there is no extraluminal extension of contrast to 
suggest leakage. The imaged lung apices are clear.  The imaged 
portion of the cervical spine isunremarkable. 
  
After the completion of the esophagram we were asked if we could 
assess the right piriform sinus for filling defect.  Distention 
views of the piriform sinus were not obtained during the 
examination.  No obliteration is seen, but a small focus such as 
that seen on the prior CT may not be apparant on this imaging. 
  
IMPRESSION:  No extraluminal extension of contrast to suggest 
leak 

___ CT NECK

The parotid glands and submandibular glands, are unremarkable. 
There is no 
cervical adenopathy.  The patient is status post right 
hemithyroidectomy. The left thyroid and isthmus are normal in 
appearance.  There is no evidence of esophageal or tracheal 
diverticulum identified. 
  
The aerodigestive tract appears normal. Included paranasal 
sinuses and 
mastoids are clear. 
  
Vascular structures in the neck are grossly unremarkable. No 
focal suspicious osseous lesion identified. 
  
IMPRESSION:  
  
No evidence of esophageal or tracheal diverticulum.  No other 
significant 
change from the prior examination. 

================================= 
DISCHARGE LABS
=================================

___ 05:55AM BLOOD WBC-5.6 RBC-4.40 Hgb-12.3 Hct-39.8 MCV-90 
MCH-28.0 MCHC-31.0 RDW-13.1 Plt ___
___ 05:55AM BLOOD Glucose-63* UreaN-8 Creat-0.7 Na-139 
K-3.8 Cl-104 HCO3-22 AnGap-17
___ 05:55AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.9
___ 06:30AM BLOOD TSH-2.___ year old female s/p right partial thyroidectomy ___ in 
___ for unknown reasons, presenting with dysphagia and 
odynophagia found to have right vocal cord paralysis, 
pirifiromis hyperdensity of unknown etiology, and posterior 
pharyngeal wall outpouching. Hospital course is outlined below 
by problem:

#  Neck pain/dysphagia:  Patient presented initially to an OSH 
with symptoms after a recent thyroidectomy in ___. CT neck 
at OSH was concerning for extraluminal free air and a potential 
retropharyngeal abscess/mass which prompted transfer to ___. 
ENT evaluation at ___ revealed right vocal cord paralysis. 
Unasyn was started on admit due to the concern for 
microperforation. She went to the ___ on ___ for direct 
pharyngoscopy and flexible esophagoscopy. A right hypopharyngeal 
lesion was identified and biopsied (results were pending at time 
of discharge). Patient was maintained on NPO diet and aspiration 
precautions. Patient was also maintained on PPI BID because of 
evidence of erythema throughout esophagus on scope. A CT neck 
with oral contrast was obtained and did not show evidence of 
perforation. As a result antibiotics were discontinued. A video 
swallow evaluation was performed and patient was cleared for a 
regular diet with thin liquids. The study revealed a small right 
sided diverticulum above the level of the UES that emptied with 
liquids but collected solids and cleared with liquids. 
Speech/swallow recommended ENT outpatient follow-up for this 
issue. Patient received education regarding aspiration 
precautions and tolerated a regular diet prior to discharge.

# Hyperdensity of piriformis: of unknown etiology. Hyperdensity 
was visualized on CT neck. ENT was unable to visualize foreign 
body object on scope. Further imaging was not pursued as 
inpatient. Further imaging should be pursued as outpatient based 
on ENT recommendations.

TRANSITIONAL ISSUES
# f/u pharyngeal mass biopsies - results pending at time of 
discharge
# Hyperdense small focus in the area of the right piriform sinus 
of unclear clinical significance - will need further ENT workup 
as outpatient
# discharged on high dose PPI therapy - determine duration and 
intensity of PPI therapy as outpatient
# patient is able to tolerate both PO solids, liquids and pills 
- received education about aspiration precautions. Instructed to 
drink a small amount of liquid after each bite
# Blood cultures ___ pending 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth twice a day Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: ?odynophagia secondary to pharyngeal 
outpouching
Secondary diagnosis: paralyzed right vocal cord

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you here at ___. You were 
found to have pain with swallowing that you have had since your 
thyroid surgery in ___. The Ear-Nose-Throat doctors ___ that 
___ a had an outpouching in your throat, specifically your 
pharynx which could be causing you to be having some of your 
symptoms. A biopsy was obtained and was pending at the time of 
discharge. You were started on a medication to help with some of 
the irritation that was found in your throat as well. You 
received education about aspiration precautions, which you will 
need to follow when you leave the hospital. Briefly, you should 
sit upright when eating all meals. You should take small bites 
and place a small amount of food in your mouth. You should also 
drink a small amount of liquid after every bite. You will follow 
up with the throat doctors in one week. You will also follow up 
with a new primary care doctor at ___ who will 
manage your general health.

We wish you all the best in your recovery.

Sincerely,

Your ___ team
 
Followup Instructions:
___